* source INA139
X_U1         N00240 0 N00109 N00167 N00214 INA169
V_V1         N00109 0 25Vdc
V_V3         N00214 0 5Vdc
R_R1         N00240 0  27k TC=0,0 
R_R2         N00167 N00109  0.5m TC=0,0 
I_I1         N00167 0 DC 200Adc  
